US05128352
1-(3-Thienyl)oxindole
To a solution of 1-(3-thienyl)indole (9.14 g, 0.0459 M) in 350 ml of dry methylene chloride under a nitrogen atmosphere was added 6.44 g (0.0482 M) of N-chlorosuccinimide (NCS) at room temperature. The reaction was stirred at room temperature for 2 hours, then concentrated in vacuo. The resulting foamy residue was immediately dissolved in 190 ml of glacial acetic acid. The resulting mixture was heated to 70° C. followed by the addition of 49.5 ml of 85% H3PO4 and heating of the reaction mixture to reflux for one hour. The mixture was then cooled to room temperature, poured onto ice water, basified to pH ~11-12 with Na2CO3 and extracted with ethyl acetate (3×500 ml). The combined ethyl acetate extracts were washed with water, brine, dried (MgSO4), filtered and concentrated in vacuo leaving dark brown-black oil. Purification of the crude product on a silica gel column (elution with CH2Cl2, followed by elution with 90% CH2Cl2 -10% CH3OH) gave a total of 7.2 grams (72.8%) of brown crystalline solid; m.p. 62°-67° C. MS: M+ =215. IR(KBr) 5.9μ(s) c=O. NMR(CDCl3)delta: 3.6 (s, 2H), 6.7-7.4 (m, 7H).

reactant | 1-(3-thienyl)indole | 0.0459 M, 9.14 g | S1C=C(C=C1)N1C=CC2=CC=CC=C12 | C12H9NS
reactant | N-chlorosuccinimide | 0.0482 M, 6.44 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-Thienyl)oxindole | 7.2 grams, 72.8% | S1C=C(C=C1)N1C(CC2=CC=CC=C12)=O | C12H9NOS
